US07968724B2
Preparation of 4-Methoxy-3-(4-nitro-phenoxy)-benzaldehyde (According to Scheme 3)
4-Methoxy-3-hydroxy-benzaldehyde (1.0 mg, 7.5 mmoles) is dissolved in DMF (20 mL). Cesium carbonate (2.45 g, 7.5 mmoles) and 1-fluoro-4-nitro-benzene (1.75 mL, 7.5 mmoles) are added and the resulting mixture is stirred at room temperature for 20 hours. The reaction mixture is then quenched by addition of 1N HCl and extracted with AcOEt. The organic layer is dried over Na2SO4 and the solvent is evaporated. The crude mixture is purified by chromatography on SiO2 (eluent:hexane:AcOEt=9:1) to yield 2.0 g of the pure title compound.

reactant | 4-Methoxy-3-hydroxy-benzaldehyde | 7.5 mmoles, 1.0 mg | COC1=C(C=C(C=O)C=C1)O | C8H8O3
reactant | Cesium carbonate | 7.5 mmoles, 2.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-fluoro-4-nitro-benzene | 7.5 mmoles, 1.75 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Methoxy-3-(4-nitro-phenoxy)-benzaldehyde | 2.0 g | COC1=C(C=C(C=O)C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11NO5
